US09278944B2
Methyl [3-(5-acetyl-2-methoxypyridin-3-yl)prop-2-yn-1-yl]carbamate and cyclopropylamine were treated in the similar manner to Reference Example 6(6) to give methyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxypyridin-3-yl}prop-2-yn-1-yl)carbamate [Ex(296-3)] as a colorless oil.

reactant | Methyl [3-(5-acetyl-2-methoxypyridin-3-yl)prop-2-yn-1-yl]carbamate | C(C)(=O)C=1C=C(C(=NC1)OC)C#CCNC(OC)=O | C13H14N2O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | methyl (3-{5-[1-(cyclopropylamino)ethyl]-2-methoxypyridin-3-yl}prop-2-yn-1-yl)carbamate | C1(CC1)NC(C)C=1C=C(C(=NC1)OC)C#CCNC(OC)=O | C16H21N3O3
